US04885367
To 50 ml of a dioxane suspension containing 0.96 g of 60% sodium hydride was added 3.6 g of 4-hydroxytetrahydrothiopyran at room temperature, and the mixture was stirred on heating at 90° C. with stirring for 6 hours. The temperature of the mixture was returned to room temperature, then 10 ml of a dioxane solution of 4.5 g of 2-fluoronitrobenzene was added dropwise, and the mixture was stirred overnight. The reaction solution was poured into ice water and extracted with ethyl ether, and the ethyl ether layer was washed, in turn, with water and a saturated aqueous sodium chloride solution, and dried over anhydrous sodium sulfate. The solvent was evaporated, and 1.1 g of the resulting oil was purified by silica gel column chromatography (eluent; n-hexane:ethyl acetate=10:1 ) to give 6.1 g of 2-(tetrahydro-4H-thiopyran-4-yloxy)nitrobenzene as a pale yellow oil.

reactant | sodium hydride | 0.96 g | [H-].[Na+]
reactant | 4-hydroxytetrahydrothiopyran | 3.6 g | OC1CCSCC1 | C5H10OS
reactant | 2-fluoronitrobenzene | 4.5 g | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 50 ml | O1CCOCC1 | C4H8O2
product | 2-(tetrahydro-4H-thiopyran-4-yloxy)nitrobenzene | 6.1 g | S1CCC(CC1)OC1=C(C=CC=C1)[N+](=O)[O-] | C11H13NO3S
